US03948910
Example III: 6-Chloro-2-(piperidino)pyridine-N-oxide ##SPC5##
A solution was prepared by dissolving 10 grams (0.061 mole) of 2,6-dichloropyridine-N-oxide in 100 milliliters of benzene at 35 C. To this solution was added dropwise 10.3 grams (0.122 mole) of piperidine. Upon completion of the piperidine addition, the reaction mixture was refluxed for 2 hours. At the completion of the reaction, the insoluble material contained in the reaction mixture was removed by filtration and benzene thereafter distilled off. The oily residue which remained was taken up in hexane. The 6-chloro-2-(piperidino)pyridine-N-oxide product was recovered by recrystallization from hexane and recovered in a yield of 7.5 grams. The product melted at 38°-41°C. and was found upon analysis to have carbon, hydrogen, chlorine and nitrogen contents of 54.5, 5.9, 19.9 and 12.9 percent, respectively, as compared with the theoretical contents of 56.8, 6.1, 16.7 and 13.2 percent, respectively, calculated for the above named compound.

reactant | 2,6-dichloropyridine-N-oxide | 0.061 mole, 10 grams | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
reactant | piperidine | 0.122 mole, 10.3 grams | N1CCCCC1 | C5H11N
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | 6-Chloro-2-(piperidino)pyridine-N-oxide | ClC1=CC=CC(=[N+]1[O-])N1CCCCC1 | C10H13ClN2O
